US06051712
In an analogous manner to that described in Example 25(b), by treating 2,2,2-trichloroethyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-(2-pyridin-2-ylcarbamoyloxy-ethoxy]-phenyl]-piperidine-1-carboxylate with zinc in glacial acetic acid there was obtained (3RS,4RS)-2-[4-[3-(naphthalen-2-ylmethoxy)-piperidin-4-yl]-phenoxy]-ethyl pyridine-2-yl-carbamate as a colourless solid; MS: 498 (M+H)+.

reactant | 2,2,2-trichloroethyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-(2-pyridin-2-ylcarbamoyloxy-ethoxy]-phenyl]-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCOC(NC1=NC=CC=C1)=O)C(=O)OCC(Cl)(Cl)Cl | C33H32Cl3N3O6
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
product | (3RS,4RS)-2-[4-[3-(naphthalen-2-ylmethoxy)-piperidin-4-yl]-phenoxy]-ethyl pyridine-2-yl-carbamate | N1=C(C=CC=C1)NC(OCCOC1=CC=C(C=C1)C1C(CNCC1)OCC1=CC2=CC=CC=C2C=C1)=O | C30H31N3O4
